US07056937B2
To a solution of N-t-butoxycarbonyl 2-(piperidin-2-yl) ethylamine (8.1 g) and DIEA (14.1 mL) in CH3CN (29 mL) was added 2-fluoropyridine (3.5 mL) and the resulting mixture was heated in a sealed-tube at 100° C. for three days. Solvent was removed and the crude product was purified via column chromatography (20% EtOAc/hexane) to afford 3.9 g of N-t-butoxycarbonyl 2-[1-(pyrid-2-yl)piperidin-4-yl]ethylamine. 1H NMR (CDCl3) δ=8.16 (dd, J=1.8, 5.0 Hz, 1H), 7.44–7.38 (m, 1H), 6.61 (d, J=8.7 Hz, 1H), 6.53 (dd, J=5.0, 7.2, 1H), 4.58 (bs, 1H), 4.23 (d, J=12.6 Hz, 2H), 3.15 (q, J=6.6 Hz, 2H), 2.76 (dt, J=2.7, 12.6 Hz, 2H), 1.75 (d, J=12.6 Hz, 2H), 1.55–1.35 (m, 11H), 1.28–1.15 (m, 3H);

reactant | N-t-butoxycarbonyl 2-(piperidin-2-yl) ethylamine | 8.1 g | C(C)(C)(C)OC(=O)NCCC1NCCCC1 | C12H24N2O2
reactant | DIEA | 14.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-fluoropyridine | 3.5 mL | FC1=NC=CC=C1 | C5H4FN
solvent | CH3CN | 29 mL | CC#N | C2H3N
product | N-t-butoxycarbonyl 2-[1-(pyrid-2-yl)piperidin-4-yl]ethylamine | 3.9 g | C(C)(C)(C)OC(=O)NCCC1CCN(CC1)C1=NC=CC=C1 | C17H27N3O2
